US03931226
8-Chloro-2,3,4,10-tetrahydro-10-phenylpyrimido[1,2-a]indol-10-ol
Reaction of 2-amino-5-chloro-3-phenyl-3H-indol-3-ol (2.58 g) with 1,3-dichloropropane (1.1 g) according to the procedure of Example 1 step (c) gives the title compound as its hydrochloride salt, m.p. 279°-282°C (decomp).

reactant | 2-amino-5-chloro-3-phenyl-3H-indol-3-ol | 2.58 g | NC1=NC2=CC=C(C=C2C1(O)C1=CC=CC=C1)Cl | C14H11ClN2O
reactant | 1,3-dichloropropane | 1.1 g | ClCCCCl | C3H6Cl2
product | 8-Chloro-2,3,4,10-tetrahydro-10-phenylpyrimido[1,2-a]indol-10-ol | ClC1=CC=2C(C=3N(C2C=C1)CCCN3)(O)C3=CC=CC=C3 | C17H15ClN2O
